Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Zocor
 
Attending: ___
 
Major Surgical or Invasive Procedure:
None
attach
 
Pertinent Results:
___ 10:50PM BLOOD WBC-10.7* RBC-3.55* Hgb-10.5* Hct-32.6* 
MCV-92 MCH-29.6 MCHC-32.2 RDW-17.0* RDWSD-57.2* Plt ___
___ 10:50PM BLOOD Glucose-64* UreaN-8 Creat-0.6 Na-134* 
K-4.3 Cl-100 HCO3-25 AnGap-9*
___ 05:35AM BLOOD ALT-8 AST-26 LD(LDH)-334* AlkPhos-134* 
TotBili-0.3
___ 05:35AM BLOOD TSH-3.3
___ 04:43AM BLOOD Digoxin-0.5*

CT Abdomen/Pelvis w/ Contrast ___ at ___
1. Increased right adrenal mass measuring up to 15.8 cm, again
suspicious for primary malignancy or metastatic disease, given
history of melanoma. The mass invades the IVC, and has mass
effect on the liver and right kidney.
2. Stable right posterior pararenal 1.1 cm nodular deposit, also
concerning for metastatic focus.
3. Stable heterogenous attenuation of the liver, possibly due to
mass efect.
4. Increased right middle lobe 2.2 cm nodule, concerning for
metastatic disease.
5. Stable small moderate right pleural effusion and right lung
base compressive atelectasis versus consolidation. Interval
resolution of left pleural effusion.
6. Increased bilateral flank soft tissue swelling.
7. Small volume pelvic ascites.
8. Colonic diverticulosis without evidence of acute
 
Brief Hospital Course:
TRANSITIONAL ISSUES
=========================
- Follow up with Oncology for progression of malignancy.
- On ciprofloxacin PO (same bioavailability as IV). for GNR 
bacteremia. Note cultures from ___ health couldn't 
speciate the GNR in only one sample (failed to grow in both 
aerobic and anaerobic cultures). Low risk it's not covered by 
cipro (which covers most GNRs) but patient is aware he needs 
close monitoring if he spikes in the event organism is not 
covered by Ciprofloxacin.

Mr. ___ is a ___ male with atrial 
fibrillation and DVT (on apixaban), adrenal insufficiency, and 
metastatic melanoma to the brain s/p resection and radiation 
with plan to
start clinical trial protocol ___ who presented with 
abdominal pain, nausea, and fatigue.

# Sepsis (febrile, leukocyrosis)
# GNR bacteremia
Pt found to have GNR bacteremia (found in OSH labs) of unclear 
etiology. This is most likely a GI source, maybe from a GI 
compromise related to his metastatic cancer, vs dental source. 
No localizing symptoms except for R abd pain likely ___ pt's 
mass and non-specific teeth pain. UA negative. LFTs were mildly 
elevated but not consistent with obstructive cholangitis and 
___ sign was negative. Initially on empiric vancomycin, 
ceftriaxine, and flagyl --> narrowed to
CTX based on GNR bacteremia. ___ at ___ 
couldn't speciate the final organism as it did not grow both in 
aerobic and anaerobic cultures. Given such good clinical 
improvement, the patient was discharged on ciprofloxacin PO 
(same bioavailability as IV) with plan for 14 day treatment 
given immune status with malignancy and likely treatment.

# Abdominal Pain:
# Nausea: Pain may be secondary to enlarging right adrenal mass 
(read as 15.8 cm at ___, last CT here in ___ noted as 
12.4 x 10.5 cm). Abdominal CT without acute process. Also could
consider bone/right met/injury. Pain control with tylenol or 
tramadol or morphine PRN. Pt reports that he does not handle 
oxycodone well. 

# Elevated Troponin: Possible type II NSTEMI. Denies cardiac 
symptoms, including chest pain. EKG reports junctional rhythm 
with no signs of ACS; Troponin trend was flat

# Metastatic Melanoma:
# Secondary Neoplasm of Brain:
# Secondary Neoplasm of Adrenal: Plan was to start clinical 
trial protocol ___. Email sent to Dr. ___ concern 
for progression of cancer). Patient being seen in clinic on 
___

# Atrial Fibrillation: Continued home apixaban. Continued home 
digoxin. Dig level slightly low but pt is rate controlled; kept 
same dose of dig

# Secondary Adrenal Insufficiency: Secondary to check 
pointinhibitor therapy: Doubled dose of hydrocortisone to 30mg 
qAM and 10mg qPM on admission. Decreased back to home dose prior 
to dispo

# IVC Thrombus ___ tumor compression
# DVT/PE: Continued home apixaban. No sign of IVC syndrome on 
exam.

# Malnutrition: Patient with low albumin and poor PO intake.

# Hypothyroidism
Continued home levothyroxine

# Anemia in Malignancy: Stable. No evidence of bleeding.

# Alcohol Use Disorder:
# NAFLD: Steatosis but not cirrhosis noted on imaging. Not 
showing signs of withdrawal.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 
2. Cyanocobalamin 100 mcg PO DAILY 
3. Digoxin 0.125 mg PO DAILY 
4. Hydrocortisone 15 mg PO QAM 
5. Hydrocortisone 5 mg PO QPM 
6. Levothyroxine Sodium 75 mcg PO DAILY 
7. Colchicine 0.6 mg PO DAILY:PRN gout flare 
8. Multivitamins W/minerals 1 TAB PO DAILY 
9. Omeprazole 20 mg PO DAILY 
10. Solu-CORTEF (hydrocorTISone Sod Succinate) 100 mg IM PRN 
11. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
12. iron 18 mg PO DAILY 
13. melatonin 5 mg PO QHS:PRN insomnia 
14. DiphenhydrAMINE 50 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth twice 
a day (end date ___ Disp #*20 Tablet Refills:*0 
2.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
3.  Apixaban 5 mg PO BID  
4.  Colchicine 0.6 mg PO DAILY:PRN gout flare  
5.  Cyanocobalamin 100 mcg PO DAILY  
6.  Digoxin 0.125 mg PO DAILY  
7.  DiphenhydrAMINE 50 mg PO QHS:PRN insomnia  
8.  Ferrous Sulfate 18 mg PO DAILY  
9.  Hydrocortisone 5 mg PO QPM  
10.  Hydrocortisone 15 mg PO QAM  
11.  Levothyroxine Sodium 75 mcg PO DAILY  
12.  melatonin 5 mg PO QHS:PRN insomnia  
13.  Multivitamins W/minerals 1 TAB PO DAILY  
14.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
GNR bacteremia
Sepsis
Abdominal pain
Metastatic melanoma
Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

You were admitted due to not feeling well. You significantly 
improved on antibiotics. We suspect you had an infection given 
your blood cultures came back positive from ___. 
Unfortunately the exact organism couldn't be speciated and we 
thus treated you with antibiotics that would cover a GNR 
bacteremia.

Please follow up with your oncologist as planned after 
discharge.

It was a pleasure being part of your care
Your  ___ team
 
Followup Instructions:
___